US05541180
To a stirred and cooled (0° C.) solution of 32.8 g of 3,4-dihydro-2H-1-benzopyran-2-methanol in 71 ml of pyridine and 135 ml of benzene was added dropwise a solution of 41.9 g of 4-methyl-benzenesulfonyl chloride in 72.5 ml of benzene. Upon completion, stirring was continued for 25 hours. The reaction mixture was washed successively with a hydrochloric acid solution (10% ), with water and with a sodium carbonate solution (10% ). The organic layer was dried, filtered and evaporated. The residue was purified by column chromatography (silica gel; CHCl3 100%). The eluent of the desired fraction was evaporated, yielding 28.3 g of 3,4-dihydro-2H-1-benzopyran-2-methanol 4-methylbenzenesulfonate (ester) as a solid residue, mp. 59.4° C. (interm. 1).

reactant | 3,4-dihydro-2H-1-benzopyran-2-methanol | 32.8 g | O1C(CCC2=C1C=CC=C2)CO | C10H12O2
reactant | 4-methyl-benzenesulfonyl chloride | 41.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | pyridine | 71 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 135 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 72.5 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dihydro-2H-1-benzopyran-2-methanol 4-methylbenzenesulfonate | 28.3 g | O1C(CCC2=C1C=CC=C2)CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C10H12O2.C7H8O3S/c11-7-9-6-5-8-3-1-2-4-10(8)12-9;1-6-2-4-7(5-3-6)11(8,9)10/h1-4,9,11H,5-7H2;2-5H,1H3,(H,8,9,10)/p-1
